US05998412
A solution of tetrabutylammonium fluoride in tetrahydrofuran (1.54 ml, 1.54 mmol) was added to a solution of N-benzyloxy-1-(4-[5-cyano-1-(2-trimethylsilylethanesulfonyl)-indole-3-yl]piperidine-1-sulfonyl}-4-(N,N-dimethylaminosulfonyl)piperazine-2-(R)-carboxamide (0.49 g, 0.62 mmol) and the reaction was placed in a 55° C. oil bath for 30 min. The reaction was diluted with 1 M HCl and concentrated in vacuo. The residue was extracted with ethyl acetate and the organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo to give N-benzyloxy-1-[4-(5-cyanoindol-3-yl)piperidine-1-sulfonyl]-4-(N,N-dimethylamino-sulfonyl)piperazine-2-(R)-carboxamide (99%) as a tan solid. This material was converted to N-hydroxy-1-[4-(5-cyanoindol-3-yl)piperidine-1-sulfonyl]-4-(N,N-dimethylamino-sulfonyl)piperazine-2-(R)-carboxamide by following Example 16, Step 5.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 1.54 mmol, 1.54 ml | O1CCCC1 | C4H8O
reactant | N-benzyloxy-1-(4-[5-cyano-1-(2-trimethylsilylethanesulfonyl)-indole-3-yl]piperidine-1-sulfonyl}-4-(N,N-dimethylaminosulfonyl)piperazine-2-(R)-carboxamide | 0.62 mmol, 0.49 g | C(C1=CC=CC=C1)ONC(=O)[C@@H]1N(CCN(C1)S(=O)(=O)N(C)C)S(=O)(=O)N1CCC(CC1)C1=CN(C2=CC=C(C=C12)C#N)S(=O)(=O)CC[Si](C)(C)C | C33H47N7O8S3Si
solvent | HCl | 1 M | Cl | ClH
product | N-benzyloxy-1-[4-(5-cyanoindol-3-yl)piperidine-1-sulfonyl]-4-(N,N-dimethylamino-sulfonyl)piperazine-2-(R)-carboxamide | 99% | C(C1=CC=CC=C1)ONC(=O)[C@@H]1N(CCN(C1)S(=O)(=O)N(C)C)S(=O)(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)C#N | C28H35N7O6S2
